US06770643B2
[2-Methoxy-5-(5H-pyrrolo[2,3-b]pyrazin-6-yl)-phenoxy]acetic Acid Ethyl Ester
To a solution of 2-methoxy-5-(5H-pyrrolo[2,3-b]pyrazin-6-yl)-phenol [0.5 g, Example 28]in dimethylformamide (10 mL) and cesium carbonate (0.67 g) was added ethyl chloroacetate (0.025 g). The reaction mixture was heated at 50° C. overnight. After cooling, the dimethylformamide was removed in vacuo and the residue partitioned between ethyl acetate and water. The organic fraction was dried over sodium sulfate, evaporated and subjected to flash column chromatography on silica eluting with 2.5% methanol in dichloromethane. This product was further triturated with a mixture of ethyl acetate and pentane to give the title compound as a white solid, m.p. 183-184° C. MS: 328 (MH+).

reactant | 2-methoxy-5-(5H-pyrrolo[2,3-b]pyrazin-6-yl)-phenol | COC1=C(C=C(C=C1)C1=CC=2C(=NC=CN2)N1)O | C13H11N3O2
reactant | cesium carbonate | 0.67 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl chloroacetate | 0.025 g | ClCC(=O)OCC | C4H7ClO2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | [2-Methoxy-5-(5H-pyrrolo[2,3-b]pyrazin-6-yl)-phenoxy]acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=CC(=C1)C1=CC=2C(=NC=CN2)N1)OC)=O | C17H17N3O4
